* C:\users\fadelrio\Documents\Ingenieria\AdC\TP1 ADC\Draft3.asc
E1 N002 0 N001 N004 10000Meg
R1 N004 0 10k
R2 N002 N004 5.6k
R3 P001 N003 10k
R4 N002 N001 10k
C1 N001 P001 22n
C2 N002 N001 22n
V1 N003 0 1 AC 1
.ac lin 100000 1 100000
.backanno
.end
