* C:\users\fadelrio\Documents\Ingenieria\Circuitos\TL2\amplificador_super_magico.asc
Q1 N007 N010 N013 0 BC547B
R1 N001 N010 1Meg
R2 N002 N007 4k
R3 N013 0 100
V2 N002 0 15
V1 N001 0 10
V3 N009 0 SINE(0 10m 1k)
C1 N010 N009 50µ
R4 N005 0 15k
C2 N005 N007 10nn
Q2 N008 N012 N014 0 BC547B
R5 N003 N012 200k
R6 N004 N008 4k
R7 N014 N015 100
V4 N004 0 15
V5 N003 0 10
V6 N011 0 SINE(0 10m 1k)
C3 N012 N011 100n
R8 N006 0 15k
C4 N006 N008 100n
R9 N015 0 8k
C5 N015 0 10µ
Q3 N019 N021 N022 0 BC548B
R10 N016 N021 82k
R11 N017 N019 1k
R12 N022 0 1k
V7 N017 0 10
V8 N016 0 2
V9 N020 0 SINE(0 2.5m 1k) AC 1
C6 N021 N020 2µ
R13 N018 0 4.7k
C7 N018 N019 2µ
C8 N022 0 100µ
.model NPN NPN
.model PNP PNP
.lib C:\users\fadelrio\AppData\Local\LTspice\lib\cmp\standard.bjt
* .op
* .tran 0 5m 0 1u
* .op
* .tran 0 5m 0 1u
* .op
* .tran 0 5m 0 1u
.ac dec 10000000 1 1000Meg
.model BC548B NPN(Is=7.049f Xti=3 Eg=1.11 Vaf=62.79 Bf=374.6 Ise=68f Ne=1.576 Ikf=81.57m Nk=.4767 Xtb=1.5 Br=1 Isc=12.4f Nc=1.835 Ikr=3.924 Rc=.9747 Cjc=5.25p Mjc=.3147 Vjc=.5697 Fc=.5 Cje=11.5p Mje=.6715 Vje=.5 Tr=10n Tf=410.2p Itf=1.491 Xtf=40.06 Vtf=10 Vceo=30 Icrating=100m mfg=Philips)
.backanno
.end
